US08710044B2
4-{[(1S)-1-(4-Fluorophenyl)-2-(methylamino)ethyl]amino}-2-methylquinazoline-8-carboxamide
Crude 4-[((1S)-1-(4-Fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}ethyl)-amino]-2-methylquinazoline-8-carboxamide (161 mg; 0.30 mmol) and Cs2CO3 (488 mg; 1.50 mmol) were suspended in CH3CN (7 ml), and stirred for 10 minutes at room temperature. Benzenethiol (0.12 ml; 1.20 mmol) was added via syringe and the solution was stirred vigorously at room temperature overnight. The reaction mixture was concentrated, dissolved in DMSO (3 ml), and purified via Reverse Phase chromatography (Yamazen, basic buffer) to provide 9 16? (46 mg; 43% yield) as the free base. LC-MS [354 (M+1)]

reactant | 4-[((1S)-1-(4-Fluorophenyl)-2-{methyl[(4-nitrophenyl)sulfonyl]amino}ethyl)-amino]-2-methylquinazoline-8-carboxamide | 0.30 mmol, 161 mg | FC1=CC=C(C=C1)[C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C)NC1=NC(=NC2=C(C=CC=C12)C(=O)N)C | C25H23FN6O5S
reactant | Cs2CO3 | 1.50 mmol, 488 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Benzenethiol | 1.20 mmol, 0.12 ml | C1(=CC=CC=C1)S | C6H6S
solvent | CH3CN | 7 ml | CC#N | C2H3N
product | 4-{[(1S)-1-(4-Fluorophenyl)-2-(methylamino)ethyl]amino}-2-methylquinazoline-8-carboxamide | 43% yield | FC1=CC=C(C=C1)[C@@H](CNC)NC1=NC(=NC2=C(C=CC=C12)C(=O)N)C | C19H20FN5O
